US04614732
The N-[(1-acenaphthylenyl)methyl]amine hydrochloride, A as prepared in Example A above (1.8 g, 8.3 mmol) was dissolved in methanol (100 ml) and 5% Pd/C (0.2 g) added. The mixture was stirred at room temperature, under 51 psi of hydrogen, for 2.5 hours (hydrogen uptake: AP=6.8 psi, calculated 7.1). The catalyst was removed by filtration and the solvent evaporated in vacuo. The residue was treated with ether (150 ml) and filtered to collect precipitate. The solid was dried at 45° C., in vacuo, overnight, to give 1.5 g (83%) of a white N-[(1,2-dihydro-1-acenaphthylenyl)methyl]amine hydrochloride salt, mp>250° C. Anal (C13H13N.HCl.0.15H2O), calc: C=71.20, H=6.48, N=6.30, Cl=15.54; found: C=70.14, H=6.51; N=6.42; Cl=16.11.

reactant | N-[(1-acenaphthylenyl)methyl]amine hydrochloride | Cl.C1(=CC2=CC=CC3=CC=CC1=C23)CN
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | N-[(1,2-dihydro-1-acenaphthylenyl)methyl]amine hydrochloride salt | 1.5 g, 83% | Cl.C1(CC2=CC=CC3=CC=CC1=C23)CN | InChI=1S/C13H13N.ClH/c14-8-11-7-10-5-1-3-9-4-2-6-12(11)13(9)10;/h1-6,11H,7-8,14H2;1H
